US07547691B2
2-{5-Chloro-2-[3-(4-methylpiperazin-1-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-6-sulfonic acid amide
To a suspension of [5-chloro-4-(6-triisopropylsilanylsulfanylbenzo[b]thiophen-2-yl)-pyrimidin-2-yl]-[3-(4-methylpiperazin-1-yl)-propyl]-amine (463 mg, 0.784 mmol) in acetonitrile (4 mL) is added potassium nitrate (198 mg, 1.96 mmol) followed by the dropwise addition of sulfuryl chloride (0.157 mL, 1.96 mmol). The mixture is stirred at room temperature for 1.5 hours. After filtration, the solid is suspended in acetone (5 mL) and a solution of ammonium hydroxide (0.926 mL, 15.7 mmol) is added dropwise at 0° C. After stirring at 0° C. for 1 hour, water (40 mL) is added and the mixture is extracted with EtOAc (3×50 mL). The organic layers are concentrated and the crude product is purified on silica gel, eluting with dichloromethane in MeOH 10:0 to 6:4. The solid obtained is washed with MeOH to give the title compound as a yellow solid (26 mg, 7% yield). ES+(m/z) 481 (35Cl) and 483 (37Cl) [M+H].

reactant | [5-chloro-4-(6-triisopropylsilanylsulfanylbenzo[b]thiophen-2-yl)-pyrimidin-2-yl]-[3-(4-methylpiperazin-1-yl)-propyl]-amine | 0.784 mmol, 463 mg | ClC=1C(=NC(=NC1)NCCCN1CCN(CC1)C)C1=CC2=C(S1)C=C(C=C2)S[Si](C(C)C)(C(C)C)C(C)C | C29H44ClN5S2Si
reactant | potassium nitrate | 1.96 mmol, 198 mg | [N+](=O)([O-])[O-].[K+]
reactant | sulfuryl chloride | 1.96 mmol, 0.157 mL | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | ammonium hydroxide | 15.7 mmol, 0.926 mL | [OH-].[NH4+]
solvent | acetonitrile | 4 mL | C(C)#N | C2H3N
solvent | water | 40 mL | O | H2O
product | 2-{5-Chloro-2-[3-(4-methylpiperazin-1-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-6-sulfonic acid amide | 26 mg, 7% yield | ClC=1C(=NC(=NC1)NCCCN1CCN(CC1)C)C1=CC2=C(S1)C=C(C=C2)S(=O)(=O)N | C20H25ClN6O2S2
